US07683185B2
6-(4-Amino-phenylsulfanyl)-hexanoic acid methyl ester (28d).
To a solution of 4-aminothiophenol (2.4 g, 18.9 mmol) in methanol (10 mL) was added triethylamine (2.70 mL, 19.2 mmol). A solution of 6-bromohexanoic acid methyl ester (3.0 g, 18.9 mmol) and tert-butylammonium iodide (350 mg, 0.95 mmol) in methanol (5 mL) was added. The mixture was stirred at room temperature for 16 hours and then concentrated under reduced pressure. The residue was taken up in ethyl acetate (100 mL) and water (100 mL). The organic layer was washed with saturated aqueous sodium hydrogen carbonate (100 mL), distilled water (100 mL) and brine (100 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a yellow oil that was purified by flash chromatography (2:8 to 1:1 ethyl acetate:40-60° C. petroleum ether) to give the title compound (3.0 g, 62%) as a colourless oil.

reactant | 4-aminothiophenol | 18.9 mmol, 2.4 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | triethylamine | 19.2 mmol, 2.70 mL | C(C)N(CC)CC | C6H15N
reactant | 6-bromohexanoic acid methyl ester | 18.9 mmol, 3.0 g | COC(CCCCCBr)=O | C7H13BrO2
reactant | tert-butylammonium iodide | 0.95 mmol, 350 mg | [I-].C(C)(C)(C)[NH3+]
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | 6-(4-Amino-phenylsulfanyl)-hexanoic acid methyl ester | 3.0 g, 62% | COC(CCCCCSC1=CC=C(C=C1)N)=O | C13H19NO2S
